US07119120B2
5-Bromo-2-(4-trifluoromethoxy-benzenesulfonylamino)-benzoyl chloride
5-Bromo-2-(4-trifluoromethoxy-benzenesulfonylamino)-benzoic acid (3.27 g, 7.4 mmol) was suspended in thionyl chloride (30 mL). The mixture was heated to reflux for 4 hours. The solvent was removed to dryness. The residue was dissolved in anhydrous ethyl acetate and solvent removed (2×20 mL). The solid was dried at 40° C. in vacuum oven overnight.

reactant | 5-Bromo-2-(4-trifluoromethoxy-benzenesulfonylamino)-benzoic acid | 7.4 mmol, 3.27 g | BrC=1C=CC(=C(C(=O)O)C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C14H9BrF3NO5S
reactant | thionyl chloride | 30 mL | S(=O)(Cl)Cl | Cl2OS
product | 5-Bromo-2-(4-trifluoromethoxy-benzenesulfonylamino)-benzoyl chloride | BrC=1C=CC(=C(C(=O)Cl)C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C14H8BrClF3NO4S
